US05849732
Under ice-cooling, to 100 ml of a methanol solution containing 3.875 g of N-(4-piperidylmethyl)-N-benzylamine was added dropwise a mixed solution of 4.139 g of di-tert-butyl dicarbonate ((Boc)2O) and 20 ml of methanol. After stirring the mixture at the same temperature for 30 minutes, methanol was removed from the reaction mixture under reduced pressure and the residue was purified by silica gel column chromatography (solvent; chloroform:methanol=19:1) to give 2.72 g of N-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-N-benzylamine (yield: 47%, IR (film): 1693 cm-1).

reactant | N-(4-piperidylmethyl)-N-benzylamine | 3.875 g | N1CCC(CC1)CNCC1=CC=CC=C1 | C13H20N2
reactant | di-tert-butyl dicarbonate | 4.139 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | N-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-N-benzylamine | 2.72 g, yield: 47% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNCC1=CC=CC=C1 | C18H28N2O2
